US06358974B1
N-tert-Butyloxycarbonyl-7-bromo-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline
Di-tert-butyldicarbonate (2.99 g, 0.0137 mol) in dichloromethane (10 ml) was added dropwise over 0.16 hours to a stirred solution of 7-bromo-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline (3.0 g, 0.0125 mol) and triethylamine (1.9 ml, 0.0138 mol) in dichloromethane (40 ml) at 0° C. under argon. The reaction mixture was allowed to warm to room temperature and stirred overnight. The mixture was washed with water (100 ml). 5% aqueous citric acid (2×50 ml), brine (50 ml), dried (Na2SO4) and evaporated in vacuo to afford the title compound as an orange oil (4.2 g, 100%).

reactant | Di-tert-butyldicarbonate | 0.0137 mol, 2.99 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-bromo-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline | 0.0125 mol, 3.0 g | BrC1=CC=C2C(CNCC2=C1)(C)C | C11H14BrN
reactant | triethylamine | 0.0138 mol, 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-tert-Butyloxycarbonyl-7-bromo-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline | 4.2 g, 100% | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)Br | C16H22BrNO2
